US08426430B2
A mixture of 4-chloro-7-nitroquinazoline (2.0 g, 9.54 mmol), isopropanol (30 mL), and 3-ethynylbenzenamine (1.2 g, 10.00 mmol) was refluxed for 5 h. The reaction mixture was cooled to room temperature and refrigerated. The solid was filtered, washed with cold isopropanol several times, and dried in vacuo to give 2.6 g (94%) of N-(3-ethynylphenyl)-7-nitroquinazolin-4-amine as a yellow solid.

reactant | 4-chloro-7-nitroquinazoline | 9.54 mmol, 2.0 g | ClC1=NC=NC2=CC(=CC=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | 3-ethynylbenzenamine | 10.00 mmol, 1.2 g | C(#C)C=1C=C(C=CC1)N | C8H7N
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | N-(3-ethynylphenyl)-7-nitroquinazolin-4-amine | 2.6 g, 94% | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=CC=C12)[N+](=O)[O-] | C16H10N4O2
